US09126981B2
Synthesis of Ethyl 3-(3-benzylureido)-2,2-dimethylpropanoate (Compound V-4)
According to the procedure described in the synthesis method of Compound V-3, ethyl 3-amino-2,2-dimethylpropanoate (2.90 mg, 20 mmol) was reacted with benzyl isocyanate (1.24 ml, 10 mmol) to obtain the title compound (1.68 g, 30%).

reactant | ethyl 3-amino-2,2-dimethylpropanoate | 20 mmol, 2.90 mg | NCC(C(=O)OCC)(C)C | C7H15NO2
reactant | benzyl isocyanate | 10 mmol, 1.24 ml | C(C1=CC=CC=C1)N=C=O | C8H7NO
product | Ethyl 3-(3-benzylureido)-2,2-dimethylpropanoate | 1.68 g, 30% | C(C1=CC=CC=C1)NC(NCC(C(=O)OCC)(C)C)=O | C15H22N2O3
